US06031015
Synthesis of 2,5-dihexoxyterephthalic acid diethyl ester
15.0 g (59.0 mmol) diethyl-2,5-dihydroxyterephthalate, 20.0 ml (142 mmol) 1-bromohexane, 28.0 g (203 mmol) K2CO3 and 200 mg NaI in 100 ml acetone are heated under reflux for 66 hours. The initially yellow suspension becomes largely decolorized. The solvent is then distilled off and the residue is taken up in 400 ml ethyl acetate and 200 ml water. After removing the aqueous phase, the organic phase is washed three times with 80 ml 1 N NaOH and three times with 100 ml water and then dried over Na2SO4. After distilling off the ethyl acetate, the residue is taken up in petroleum ether. At -30° C., colourless crystals form which are recrystallized again from petroleum ether.

reactant | diethyl-2,5-dihydroxyterephthalate | 59.0 mmol, 15.0 g | C(C)OC(C1=C(C=C(C(=O)OCC)C(=C1)O)O)=O | C12H14O6
reactant | 1-bromohexane | 142 mmol, 20.0 ml | BrCCCCCC | C6H13Br
reactant | K2CO3 | 203 mmol, 28.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 200 mg | [Na+].[I-]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2,5-dihexoxyterephthalic acid diethyl ester | C(C)OC(C1=C(C=C(C(=O)OCC)C(=C1)OCCCCCC)OCCCCCC)=O | C24H38O6
